US04990508
In 60 ml of anisole was dissolved 22.5 g of methyl 4-(1-diphenylmethoxycarbonylcyclopropyl)-2,3,5,6tetrafluorobenzoate. To the resulting solution was added 80 ml of trifluoroacetic acid. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. n-Hexane was added to the residue obtained. The resulting crystals were collected by filtration to obtain 12.7 g (yield: 88.8%) of methyl 4-(1-carboxycyclopropyl)-2,3,5,6tetrafluorobenzoate.

reactant | methyl 4-(1-diphenylmethoxycarbonylcyclopropyl)-2,3,5,6tetrafluorobenzoate | 22.5 g | C1(=CC=CC=C1)C(OC(=O)C1(CC1)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F)C1=CC=CC=C1 | C25H18F4O4
reactant | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 60 ml | C1(=CC=CC=C1)OC | C7H8O
product | methyl 4-(1-carboxycyclopropyl)-2,3,5,6tetrafluorobenzoate | 12.7 g, yield: 88.8% | C(=O)(O)C1(CC1)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C12H8F4O4
